US05374641
In argon atmosphere, 2.02 g of diisopropylamine was dissolved in 50 ml of dry tetrahydrofuran, followed by dropwise addition of the solution of 12.5 ml of 1.55M n-butyl lithium in hexane at -20° C., which was then stirred at the same temperature for five minutes and cooled subsequently. 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile (4.13 g) dissolved in 20 ml of dry tetrahydrofuran was added dropwise. After stirring at the same temperature for one hour, the reaction mixture was dissolved in 10 ml of tetrahydrofuran. 4-Bromomethylphenyl methoxymethyl ether (4.48 g) was added dropwise, and the temperature was gradually increased from -78° C. to room temperature, followed by stirring overnight. The 20.0 ml of the solution of 1.0M tetra-n-butylammonium fluoride of tetrahydrofuran was added and stirred for 3.5 hours. To the reaction mixture was added saturated aqueous sodium chloride solution, and the organic phase was separated which was then extracted with ethyl acetate from aqueous phase. The organic phases were combined and washed in aqueous sodium Chloride, dried over magnesium sulfate. Then, the solvent was distilled off under reduced pressure. The obtained residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methanol-methylene chloride (2:98 v/v) was obtained 2.30 g of 2-(4-methoxymethyloxyphenyl)-1-(3-pyridyl)ethanone.

reactant | diisopropylamine | 2.02 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.55M, 12.5 ml | C(CCC)[Li]
reactant | 2-(3-pyridyl)-2-(trimethylsiloxy)acetonitrile | 4.13 g | N1=CC(=CC=C1)C(C#N)O[Si](C)(C)C | C10H14N2OSi
reactant | 4-Bromomethylphenyl methoxymethyl ether | 4.48 g | COCOC1=CC=C(C=C1)CBr | C9H11BrO2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxymethyloxyphenyl)-1-(3-pyridyl)ethanone | 2.30 g | COCOC1=CC=C(C=C1)CC(=O)C=1C=NC=CC1 | C15H15NO3
